2181-11-05 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   None.
   24 Hour Events:
   Denies CP, SOB, AP. Awaiting CABG today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Nitroglycerin - 0.31 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-11-5**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 59 (58 - 79) bpm
   BP: 106/63(73) {89/49(60) - 123/80(85)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
             Total In:
                                                                    324 mL
                                                                     82 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    144 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                    525 mL
                                                                    300 mL
   Urine:
                                                                    525 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -201 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   Physical Examination
   GEN: NAD, resting comfortably in bed, awaiting surgery
   CV: RRR, no m/r/g; JVP elevated to just 1 cm below mandible.
   +hepatojugular reflux to just below mandible.
   PULM: CTAB
   ABD: soft, nt, nd
   Labs / Radiology
   333 K/uL
   12.6 g/dL
   104 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.5 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   37.8 %
   8.4 K/uL
        [image002.jpg]
                            [**2181-11-5**]  05:42 AM
   WBC
   8.4
   Hct
   37.8
   Plt
   333
   Cr
   0.7
   Glucose
   104
   Other labs: PT / PTT / INR:/50.9/, CK / CKMB / Troponin-T:34//,
   Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   51 yr old F with a history of 3V CAD, confirmed on C. cath during this
   admission, EF of 40%, who is transferred to CCU for monitoring of
   recurrent chest pain. Plan for CABG today to revascularize due to
   3-vessel disease.
   .
   # CORONARIES: Patient with 3 vessel disease on cath. Previously found
   to be the case in [**2174**], but had been treated medically. On the floor,
   patient with recurrent chest pain and EKG changes, concerning for
   further ischemia. Chest pain has been controlled on nitro gtt. Patient
   in CCU for monitoring; plan for CABG today.
   - continue nitro gtt
   - if has further CP, would uptitrate nitro, and contact [**Name2 (NI) 9339**] and
   attending for potential balloon pump vs. urgent CABG
   - appreciate CT [**Doctor First Name 91**] recs
   - continue [**Last Name (LF) **], [**First Name3 (LF) 119**], ACE-i, simvastatin
   .
   # Acute on Chronic systolic CHF: Patient with EF of 25% at OSH, but
   repeat echo at [**Hospital1 5**] showed EF of 40%, consistent with prior echo. SOB
   resolved, but still with elevated JVP (no crackles on my exam this
   morning).
   -Goal even I
s & O
s as preparation for CABG today
   -Continue BB, ACEi, [**Hospital1 119**], statin
   .
   # Social stressors: Recently lost mother to cancer, recently lost job.
   Denies SI/HI or depression.
   - social work consulted for coping
   .
   # FEN: Replete lytes PRN, NPO for CABG today
   .
   # ACCESS: PIV
   .
   # PROPHYLAXIS: IV heparin gtt
   .
   # CODE: FULL (confirmed); contact: [**Name (NI) 777**] [**Name (NI) 846**] [**Telephone/Fax (1) 9340**]
   .
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   NPO for CABG today.
   Glycemic Control:  Monitor blood sugars.
   Lines:
   18 Gauge - [**2181-11-4**] 12:00 PM
   Prophylaxis:
   DVT: IV heparin gtt
   Stress ulcer:
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:
   ------ Protected Section ------
   CCU ATTENDING PROGRESS NOTE
   I have reviewed the comprehensive Progress Note today by Dr. [**Last Name (STitle) **] and
   was present for the pertinent portions of the physical examination.   I
   concur with the history, physical, and assessment and plan as outline
   in the admission note.
   History:   Per Dr. [**Last Name (STitle) **]
s note.  He remained painfree overnight on IV
   heparin-NTG.
   Physical Examination:   Per Dr. [**Last Name (STitle) **]
s note.
   Medical Decision Making:   Ms. [**Name13 (STitle) 9357**] is a 51 year old man with known
   3 V CAD who developed rest chest pain and marked EKG changes awating
   CABG.   He has remained painfree and is scheduled for CABG today with
   Dr. [**Last Name (STitle) **].    We discussed the importance of follow-up care.
   The management has been discussed with the patient and he is in
   agreement.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**]  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2181-11-5**] 12:15 ------
   CCU ATTENDING PROGRESS NOTE-Corrected
   I have reviewed the comprehensive Progress Note today by Dr. [**Last Name (STitle) **] and
   was present for the pertinent portions of the physical examination.   I
   concur with the history, physical, and assessment and plan as outline
   in the admission note.
   History:   Per Dr. [**Last Name (STitle) **]
s note.  He remained painfree overnight on IV
   heparin-NTG.
   Physical Examination:   Per Dr. [**Last Name (STitle) **]
s note.
   Medical Decision Making:   Mr. [**Known lastname 9358**] is a 51 year old man with
   known 3 V CAD who developed rest chest pain and marked EKG changes
   awating CABG.   He has remained painfree and is scheduled for CABG
   today with Dr. [**Last Name (STitle) **].    We discussed the importance of follow-up care and
   risk factor modification after this revascularization procedure.
   The management has been discussed with the patient and he is in
   agreement.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**]  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2181-11-5**] 12:18 ------